US05962479
Butyl-ethyl-[6-methoxy-2,5,5-trimethyl-7-(2,4,6-trimethylphenyl)-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4yl]-amine
To a solution of 4-(butyl-ethyl-amino)-2,5,5-trimethyl-7-(2,4,6-trimethylphenyl)-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-6-ol] (20 mg, 0.05 mmol) in 1 ml of dry THF was treated with sodium hydride (60% in oil, 4 mg, 0.1 mmol) and then methyl iodide (0.3 ml) was added at room temperature. After stirring at room temperature for 2.5 hours, the mixture was quenched with saturated ammonium chloride and extracted with ethyl acetate. The organic layer was washed with brine, dried and concentrated to give 26 mg of crude material. After silica gel column purification with 10% ethyl acetate in hexane, 19 mg of a colorless oil of the title compound was obtained. 1H NMR (CDCl3) δ6.92 (s, 1H), 6.89 (s, 1H), 4.48 (s, 1H), 3.1-3.3 (m, 4H), 3.11 (s, 3H), 2.32 (s, 3H), 2.28 (s, 3H), 2.20 (s, 3H), 2.19 (s, 3H), 1.45 (s, 3H), 1.44 (s, 3H), 1.4-1.52 (m, 2H), 1.2-1.4 (m, 2H), 1.10 (t, 3H), 0.90 (t, 3H) ppm.

reactant | 4-(butyl-ethyl-amino)-2,5,5-trimethyl-7-(2,4,6-trimethylphenyl)-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-6-ol | C(CCC)N(C=1C2=C(N=C(N1)C)N(C(C2(C)C)O)C2=C(C=C(C=C2C)C)C)CC | C24H36N4O
reactant | sodium hydride | 0.1 mmol, 4 mg | [H-].[Na+]
reactant | methyl iodide | 0.3 ml | CI | CH3I
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | Butyl-ethyl-[6-methoxy-2,5,5-trimethyl-7-(2,4,6-trimethylphenyl)-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4yl]-amine | 26 mg | C(CCC)N(C=1C2=C(N=C(N1)C)N(C(C2(C)C)OC)C2=C(C=C(C=C2C)C)C)CC | C25H38N4O
